* C:\Users\maxwe\Desktop\SPRING 2021 Documents\Engineering Design\GitHub\CMOS-Differential-Pair\differential_pair.asc
M§T2 V_out Vi- N004 0 cmosn l=0.13u w=25u ad=8.125u as=8.125u pd=25.6500u ps=25.6500u
M§T1 N002 Vi+ N004 0 cmosn l=0.13u w=25u ad=8.125u as=8.125u pd=25.6500u ps=25.6500u
M§T4 V_out N002 VDD VDD cmosp l=0.13u w=6u ad=13u as=13u pd=40.65u ps=40.65u
M§T3 N002 N002 VDD VDD cmosp l=0.13u w=6u ad=13u as=13u pd=40.65u ps=40.65u
VDD VDD 0 1.2
M§T5 N004 N006 0 0 cmosn l=0.13u w=3.55u ad=1.1538u as=1.1538u pd=4.2u ps=4.2u
M§TB N006 N006 0 0 cmosn l=0.2u w=0.2253u ad=0.0732u as=0.0732u pd=0.8753u ps=0.8753u
RB VDD N006 250
M§T6 V_out_t V_out_t N003 0 cmosn l=0.13u w=25u ad=8.125u as=8.125u pd=25.65u ps=25.65u
M§T7 N001 0 N003 0 cmosn l=0.13u w=25u ad=8.125u as=8.125u pd=25.65u ps=25.65u
M§T8 V_out_t N001 Vp Vp cmosp l=0.13u w=6u ad=13u as=13u pd=40.65u ps=40.65u
M§T9 N001 N001 Vp Vp cmosp l=0.13u w=6u ad=13u as=13u pd=40.65u ps=40.65u
Vi+ Vi+ 0 0.6 AC 0.5
M§T10 N003 N005 0 0 cmosn l=0.13u w=3.55u ad=1.1538u as=1.1538u pd=4.2u ps=4.2u
M§TB1 N005 N005 0 0 cmosn l=.2u w=0.2253u ad=0.0732u as=0.0732u pd=0.8753u ps=0.8753u
RB1 Vp N005 250
CL 0 V_out 5p
Vi- Vi- 0 0.6 AC -0.5
Vp Vp 0 1.2 AC 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maxwe\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmos_013_bsim4.mod
;tf V_out Vi+
*Ap = V_out2 / Vp
*Ad = V_out / Vi+
*PSRR = |Ad / Ap| =(V(v_out)/(V(vi+)-V(vi-)))  /  (V(v_out_t)/V(vp))
.ac dec 100 0.1 100Meg
.backanno
.end
